### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/ExteriorAlgebra/Basic): adds multiplication lemmas for `ExteriorAlgebra`

### PR DESCRIPTION
**Pull request by morrison-daniel**
This adds lemmas for dealing with multiplication of elements in the `ExteriorAlgebra`:
* `ιMulti_eq_zero_of_not_inj` : a product containing duplicates is zero
* `ιMulti_mul_ιMulti` : `ιMulti R m a * ιMulti R n b = ιMulti R (m+n) (Fin.append a b)`
* `ιMulti_family_mul_of_not_disjoint` : if two sets of elements are not disjoint their product is zero
* `ιMulti_perm` : the permutation corresponding to adjoining two sets of elements and sorting the result
* `ιMulti_family_mul_of_disjoint` : the product of two elements of the form `ιMulti_family` is of the form `ιMulti_family` up to sign

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean [hunk 1]
```diff
@@ -316,6 +316,18 @@ theorem ιMulti_succ_curryLeft {n : ℕ} (m : M) :
       (LinearMap.mulLeft R (ι R m)).compAlternatingMap (ιMulti R n) := by
   ext; simp
 
+lemma ιMulti_eq_zero_of_not_inj {n : ℕ} {v : Fin n → M} (hv : ¬Function.Injective v) :
+  ιMulti R n v = 0 :=
+AlternatingMap.map_eq_zero_of_not_injective (ιMulti R n) v hv
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean]: Style nit:
```suggestion
    ιMulti R n v = 0 :=
  (ιMulti R n).map_eq_zero_of_not_injective v hv
```

File: Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean [hunk 2]
```diff
@@ -350,6 +362,52 @@ abbrev ιMulti_family (n : ℕ) {I : Type*} [LinearOrder I] (v : I → M)
...
+to a `Finset` of card `n` and sorting the resulting set. -/
+def ιMulti_perm {m n : ℕ} {I : Type*} [LinearOrder I] {s : powersetCard I m}
+    {t : powersetCard I n} (h : Disjoint s.val t.val) :
+    Equiv.Perm (Fin (m + n)) :=
+  finSumFinEquiv.symm.trans ((Equiv.sumCongr
+  (Finset.orderIsoOfFin s.val s.prop).toEquiv.symm
+  (Finset.orderIsoOfFin t.val t.prop).toEquiv.symm).symm.trans
+  ((Equiv.Finset.union _ _ h).trans
+  ((Finset.orderIsoOfFin (s.val ∪ t.val)
+  (by rw [Finset.card_union_of_disjoint h, s.prop, t.prop]))).toEquiv.symm))
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean]: I have a few minor comments here as follows:

1. This uses only the language of `Set.powersetCard` and so should not be in this file.
2. It is currently very hard to understand the term so I think we should break it down with a sequence of `letI`s.
3. I think this provides sufficiently good motivation for adding definitions `Set.powersetCard.union` and `Set.powersetCard.orderIsoOfFin`.
4. We should tweak the name.

Taking all this into account I suggest something like:
```suggestion
namespace Set.powersetCard

/-- Given disjoint subsets of size `m` and `n` we can form a subset of size `m + n`. -/
@[simps] def union {m n : ℕ} {I : Type*} [DecidableEq I]
    (s : powersetCard I m) (t : powersetCard I n) (h : Disjoint s.val t.val) :
    powersetCard I (m + n) :=
  ⟨s.val ∪ t.val, by rw [mem_iff, Finset.card_union_of_disjoint h, s.prop, t.prop]⟩

/-- The natural enumeration of the elements of linearly-ordered type. -/
@[simps!] def orderIsoOfFin {n : ℕ} {I : Type*} [LinearOrder I] (s : powersetCard I n) :
    Fin n ≃o s.val :=
  s.val.orderIsoOfFin s.prop

/-- The permutation of `Fin (m + n)` corresponding to adjoining a `Finset` of card `m`
to a `Finset` of card `n` and sorting the resulting set.

In other words, given `s₁ < s₂ < ⋯ < sₘ` and `t₁ < t₂ < ⋯ < tₙ` (disjoint) this is the permutation
obtained by sorting `s₁, s₂, …, sₘ, t₁, t₂, …, tₙ`. -/
def permOfDisjoint {m n : ℕ} {I : Type*} [LinearOrder I]
    {s : powersetCard I m} {t : powersetCard I n} (h : Disjoint s.val t.val) :
    Equiv.Perm (Fin (m + n)) :=
  letI e₁ : Fin (m + n) ≃ Fin m ⊕ Fin n := finSumFinEquiv.symm
  letI e₂ : Fin m ⊕ Fin n ≃ s.val ⊕ t.val := (orderIsoOfFin s).sumCongr (orderIsoOfFin t)
  letI e₃ : s.val ⊕ t.val ≃ (union s t h).val := Equiv.Finset.union _ _ h
  letI e₄ : (union s t h).val ≃o Fin (m + n) := (orderIsoOfFin (union s t h)).symm
  e₁.trans <| e₂.trans <| e₃.trans e₄

end Set.powersetCard
```
(except in the right file, presumably `Data.Set.PowersetCard`).

Comment (morrison-daniel) [reply Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean]: I agree with the majority of this, the only issue I have is with adding the union operation since we have the disjoint union and really the disjoint union is the only operation that makes sense because otherwise you don't know what the cardinality of the set is which you need for elements of `Set.powersetCard`. The issue becomes that the disjoint union is defined as the disjoint union of the underlying sets which is not definitionally the same as the union and so `e₄` breaks. My compromise is to use your format which I agree makes it a lot easier to read, but the last step is still `(s.val ∪ t.val).orderIsoOfFin` rather than using `Set.powersetCard.orderIsoOfFin` on a general union. How does this sound?

Comment (morrison-daniel) [reply Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean]: Also this is in `Order.Hom.PowersetCard.lean` since it requires the `LinearOrder` and everything in `Data.Set.PowersetCard.lean` is done on a general type with no additional structure.

Comment (ocfnash) [reply Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean]: It looks like the disjoint union equivalent of `Equiv.Finset.union` is missing but if we add it then we can get the best of all worlds!

Specifically, how about we add:
```lean
/-- The disjoint union of finsets is a sum -/
def Finset.disjUnion (s t : Finset α) (h : Disjoint s t) :
    s ⊕ t ≃ s.disjUnion t h :=
  Equiv.setCongr (coe_disjUnion h) |>.trans (Equiv.Set.union (disjoint_coe.mpr h)) |>.symm
```
about [here](https://github.com/leanprover-community/mathlib4/blob/921b06da510212beab89ce9e2b3e2b6fa6397498/Mathlib/Data/Finset/Basic.lean#L603) and then `permOfDisjoint` can become:
```lean
def permOfDisjoint {m n : ℕ} {I : Type*} [LinearOrder I]
    {s : powersetCard I m} {t : powersetCard I n} (h : Disjoint s.val t.val) :
    Equiv.Perm (Fin (m + n)) :=
  letI e₁ : Fin (m + n) ≃ Fin m ⊕ Fin n := finSumFinEquiv.symm
  letI e₂ : Fin m ⊕ Fin n ≃ s.val ⊕ t.val := (orderIsoOfFin s).sumCongr (orderIsoOfFin t)
  letI e₃ : s.val ⊕ t.val ≃ disjUnion h := Equiv.Finset.disjUnion _ _ h
  letI e₄ : disjUnion h ≃o Fin (m + n) := (orderIsoOfFin (disjUnion h)).symm
  e₁.trans <| e₂.trans <| e₃.trans <| e₄
```

File: Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean [hunk 3]
```diff
@@ -316,6 +316,18 @@ theorem ιMulti_succ_curryLeft {n : ℕ} (m : M) :
       (LinearMap.mulLeft R (ι R m)).compAlternatingMap (ιMulti R n) := by
   ext; simp
 
+lemma ιMulti_eq_zero_of_not_inj {n : ℕ} {v : Fin n → M} (hv : ¬Function.Injective v) :
+    ιMulti R n v = 0 :=
+  (ιMulti R n).map_eq_zero_of_not_injective v hv
+
+lemma ιMulti_mul_ιMulti {m n : ℕ} (a : Fin m → M) (b : Fin n → M) :
+    ιMulti R m a * ιMulti R n b = ιMulti R (m+n) (Fin.append a b) := by
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean]:
```suggestion
    ιMulti R m a * ιMulti R n b = ιMulti R (m + n) (Fin.append a b) := by
```

File: Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean [hunk 4]
```diff
@@ -316,6 +316,18 @@ theorem ιMulti_succ_curryLeft {n : ℕ} (m : M) :
...
+  simp only [ιMulti_apply]
+  rw [show (fun i => (ι R) (Fin.append a b i)) = (ι R) ∘ Fin.append a b by ext; simp]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean]: I don't love using `change` here but I like it better than `simp` inside `rw`, and these are very stable definitional properties so how about just:
```suggestion
  change _ = (List.ofFn ((ι R) ∘ Fin.append a b)).prod
```

File: Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean [hunk 5]
```diff
@@ -350,6 +362,37 @@ abbrev ιMulti_family (n : ℕ) {I : Type*} [LinearOrder I] (v : I → M)
...
+  simp only [ιMulti_family, ιMulti_mul_ιMulti]
+  apply AlternatingMap.map_eq_zero_of_eq (i := Fin.castAdd n j) (j := Fin.natAdd m k)
+  · simp [hj, hk]
+  · apply ne_of_lt
+    apply lt_of_lt_of_le (b := m) <;> simp
+
+lemma ιMulti_family_mul_of_disjoint {m n : ℕ} {I : Type*} [LinearOrder I] (v : I → M)
+    (s : powersetCard I m) (t : powersetCard I n) (h : Disjoint s.val t.val) :
+    ιMulti_family R m v s * ιMulti_family R n v t = (permOfDisjoint h).sign •
+    ιMulti_family R (m + n) v (disjUnion h) := by
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean]: Style nit, when we're forced to break a line, I like to preserve terms on either side of an equality if possible:
```suggestion
    ιMulti_family R m v s * ιMulti_family R n v t =
      (permOfDisjoint h).sign • ιMulti_family R (m + n) v (disjUnion h) := by
```

**Review by ocfnash — APPROVED** [review]
Thanks, I think you can take it from here!

bors d+

File: Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean [hunk 6]
```diff
@@ -350,6 +362,37 @@ abbrev ιMulti_family (n : ℕ) {I : Type*} [LinearOrder I] (v : I → M)
...
+  rw [← AlternatingMap.map_perm, permOfDisjoint]
+  congr
+  ext i
+  by_cases! hi : i < m
+  · rw [← Fin.castAdd_castLT n i hi, Fin.append_left, ← OrderIso.symm_symm (OrderIso.sumCongr _ _)]
+    simp [- Fin.castAdd_castLT, ofFinEmbEquiv_symm_apply, powersetCard.orderIsoOfFin,
+      finSumFinEquiv_symm_apply_castAdd, ← Finset.coe_orderIsoOfFin_apply]
+  · rw [← Fin.natAdd_subNat_cast hi, Fin.append_right, ← OrderIso.symm_symm (OrderIso.sumCongr _ _)]
+    simp [- Fin.natAdd_subNat_cast, ofFinEmbEquiv_symm_apply, powersetCard.orderIsoOfFin,
+      finSumFinEquiv_symm_apply_natAdd, ← Finset.coe_orderIsoOfFin_apply]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean]: I don't love the following proof but it works:
```suggestion
  let e := powersetCard.orderIsoOfFin (powersetCard.disjUnion h)
  change _ = v (e (e.symm _))
  by_cases! hi : i < m
  · rw [← Fin.castAdd_castLT n i hi, Fin.append_left, OrderIso.apply_symm_apply,
      finSumFinEquiv_symm_apply_castAdd]
    aesop
  · rw [← Fin.natAdd_subNat_cast hi, Fin.append_right, OrderIso.apply_symm_apply,
      finSumFinEquiv_symm_apply_natAdd]
    aesop
```
Maybe we can improve on it by naming a few more of the equivs or maybe we can even just accept it as-is.
